US06187789B1
(a) (2R*,3R*)-2,3-Dichlorosuccinic anhydride
A solution of maleic anhydride (10.6 g, 108 mmol) and benzoyl peroxide (5 mg, 0.02 mmol) in CHCl3 (250 mL) was saturated with chlorine gas and the resulting bright yellow solution was stirred for 5 h at rt. Residual chlorine was removed with a stream of nitrogen and the reaction mixture was partially concentrated. Four crops of the white, solid title product were obtained by filtration (11.9 g, 65% yield): mp 90-92° C.

reactant | maleic anhydride | 108 mmol, 10.6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | benzoyl peroxide | 0.02 mmol, 5 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | chlorine | ClCl | Cl2
reactant | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
product | (2R*,3R*)-2,3-Dichlorosuccinic anhydride | 65% yield | Cl[C@@H]1C(=O)OC([C@H]1Cl)=O | C4H2Cl2O3
